US06780855B2
611 mg of 7α-(6-chlorohexyl)-11β-fluor-3-hydroxy-estra-1,3,5(10)-trien-17-one is dissolved in 10 ml of methanol and carefully mixed with 166 mg of sodium borohydride. After 15 minutes of stirring at room temperature, the batch is added to saturated common salt solution, extracted with methylene chloride, dried on magnesium sulfate and concentrated by evaporation in a vacuum. 599 mg of 7α-(6-chlorohexyl)-11β-fluor-estra-1,3,5(10)-triene-3,17-diol is obtained as a crude product, which is used without further purification in the next stage.

reactant | 7α-(6-chlorohexyl)-11β-fluor-3-hydroxy-estra-1,3,5(10)-trien-17-one | 611 mg | ClCCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)O)F)=O | C24H32ClFO2
reactant | sodium borohydride | 166 mg | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 7α-(6-chlorohexyl)-11β-fluor-estra-1,3,5(10)-triene-3,17-diol | 599 mg | ClCCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)O)F)O | C24H34ClFO2
